US08895547B2
3-(2-Hydroxy-2-methyl-1-sulfamoylpropyl)benzoic acid
To a solution of 3-[(2,4-dimethoxybenzylsulfamoyl)methyl]benzoic acid (4.1 g) in THF (50 ml) was added dropwise, at −78° C., butyllithium (1.6 M, 25 ml). The mixture was stirred for 10 min. Subsequently, acetone (4.5 ml) was added and the mixture was stirred at −78° C. for a further 30 min. The reaction mixture was then admixed with trifluoroacetic acid (4 ml) and concentrated. The residue was suspended in dichloromethane and trifluoroacetic acid (10 ml) admixed. After 2 h, water was added and the mixture was filtered. The aqueous phase was removed and freeze-dried. The residue was purified by means of preparative HPLC. This gave the product (1.1 g) with a molecular weight of 273.3 g/mol (C11H15NO5S).

reactant | 3-[(2,4-dimethoxybenzylsulfamoyl)methyl]benzoic acid | 4.1 g | COC1=C(CNS(=O)(=O)CC=2C=C(C(=O)O)C=CC2)C=CC(=C1)OC | C17H19NO6S
reactant | butyllithium | 1.6 M, 25 ml | C(CCC)[Li]
reactant | acetone | 4.5 ml | CC(=O)C | C3H6O
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(2-Hydroxy-2-methyl-1-sulfamoylpropyl)benzoic acid | 1.1 g | OC(C(S(N)(=O)=O)C=1C=C(C(=O)O)C=CC1)(C)C | C11H15NO5S
